US04511573
A mixture of 9.60 g of 7-nicotinoylheptanoic acid and 7.34 g of 4-chlorophenylhydrazine in 100 ml of ethanol is stirred and refluxed under nitrogen overnight. The reaction mixture is concentrated in vacuo to give a gum, which is suspended in 100 ml of ethanol, treated with 40 ml of 6N ethanolic hydrogen chloride, and refluxed under nitrogen for 22 hours. The suspension is cooled and an additional 50 ml of 6N ethanolic hydrogen chloride is added. Refluxing is resumed and continued for about 20 hours. The suspension is cooled in an ice-water bath and filtered. The filtrate is concentrated in vacuo to give a partially solid residue, which is triturated with ether-ethanol (10:1) and the yellow solid formed is collected to give 5-chloro-3-[5-(ethoxycarbonyl)pentyl]-2-(3-pyridyl)indole hydrochloride, m.p. 141°-145°.

reactant | 7-nicotinoylheptanoic acid | 9.60 g | C(C1=CN=CC=C1)(=O)CCCCCCC(=O)O | C13H17NO3
reactant | 4-chlorophenylhydrazine | 7.34 g | ClC1=CC=C(C=C1)NN | C6H7ClN2
reactant | hydrogen chloride | 6N, 40 ml | Cl | ClH
reactant | hydrogen chloride | 6N, 50 ml | Cl | ClH
reactant | ethanol | 100 ml | C(C)O | C2H6O
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | 5-chloro-3-[5-(ethoxycarbonyl)pentyl]-2-(3-pyridyl)indole hydrochloride | Cl.ClC=1C=C2C(=C(NC2=CC1)C=1C=NC=CC1)CCCCCC(=O)OCC | InChI=1S/C21H23ClN2O2.ClH/c1-2-26-20(25)9-5-3-4-8-17-18-13-16(22)10-11-19(18)24-21(17)15-7-6-12-23-14-15;/h6-7,10-14,24H,2-5,8-9H2,1H3;1H
